US07795267B2
Hexahydro-1,1-dimethyl-3H-oxazolo[3,4-a]pyrazin-3-one
(Phenylmethyl)tetrahydro-3-oxo-1,1-dimethyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate (0.97 g, 3.2 mmol) was dissolved in ethanol (50 mL). 10% Palladium carbon (0.10 g) was added thereto, and the resulting mixture was stirred under hydrogen atmosphere at room temperature one whole day and night. The reaction solution was filtered through a Celite, and the Celite was washed with ethanol. The filtrate was concentrated under reduced pressure and left to stand at room temperature overnight. The resulting crystals were collected by filtration and washed with diethyl ether to obtain the title compound (0.39 g, yield 73%).

reactant | (Phenylmethyl)tetrahydro-3-oxo-1,1-dimethyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 3.2 mmol, 0.97 g | C1(=CC=CC=C1)COC(=O)N1CC2N(CC1)C(OC2(C)C)=O | C16H20N2O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Palladium carbon | 0.10 g | [C].[Pd]
product | Hexahydro-1,1-dimethyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.39 g, yield 73% | CC1(OC(N2C1CNCC2)=O)C | C8H14N2O2
